US04429126
To a suspension of 4-oxo-10-(2,3-dimethylpentanamido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylic acid (7.3 g) in N,N-dimethylformamide (120 ml) was added methanol (140 ml) under stirring at 50° C. To this solution was added dropwise sodium hydroxide solution (sodium hydroxide 0.79 g in water 2.37 ml and ethanol 15.8 ml) under stirring for 15 minutes at ambient temperature, and was stirred for 30 minutes at ambient temperature. To this solution ether (250 ml) was added and stirred. The precipitated crystals were collected by filtration and washed two times with water and ether, and dried under reduced pressure to give sodium 4-oxo-10-(2,3-dimethylpentanamido)-4H-pyrimido[1,2-C]-quinazoline-3-carboxylate (1 hydrate) (4.4 g).

reactant | 4-oxo-10-(2,3-dimethylpentanamido)-4H-pyrimido[1,2-C]quinazoline-3-carboxylic acid | 7.3 g | O=C1C(=CN=C2N1C=NC=1C=CC(=CC21)NC(C(C(CC)C)C)=O)C(=O)O | C19H20N4O4
reactant | methanol | 140 ml | CO | CH4O
reactant | sodium hydroxide | 2.37 ml, 0.79 g | [OH-].[Na+]
reactant | ether | 250 ml | CCOCC | C4H10O
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | sodium 4-oxo-10-(2,3-dimethylpentanamido)-4H-pyrimido[1,2-C]-quinazoline-3-carboxylate | 4.4 g | O=C1C(=CN=C2N1C=NC=1C=CC(=CC21)NC(C(C(CC)C)C)=O)C(=O)[O-].[Na+] | InChI=1S/C19H20N4O4.Na/c1-4-10(2)11(3)17(24)22-12-5-6-15-13(7-12)16-20-8-14(19(26)27)18(25)23(16)9-21-15;/h5-11H,4H2,1-3H3,(H,22,24)(H,26,27);/q;+1/p-1
